US07851626B2
[(4S,5R)-2-(4-tert-Butyl-2-ethoxy-phenyl)-4,5-bis-(4-chloro-phenyl)-4,5-dimethyl-4,5-dihydro-imidazol-1-yl]-phenyl-methanone
In a manner analogous to the method described in example 5, rac-(4S*,5R*)-2-(4-tert-butyl-2-ethoxy-phenyl)-4,5-bis-(4-chloro-phenyl)-4,5-dimethyl-4,5-dihydro-1H-imidazole was reacted with benzoyl chloride (Aldrich) to give the title compound. HR-MS (ES, m/z) calculated for C36H37N2O2Cl2 [(M+H)+] 599.2227, observed 599.2223.

reactant | rac-(4S*,5R*)-2-(4-tert-butyl-2-ethoxy-phenyl)-4,5-bis-(4-chloro-phenyl)-4,5-dimethyl-4,5-dihydro-1H-imidazole | C(C)(C)(C)C1=CC(=C(C=C1)C=1NC(C(N1)(C)C1=CC=C(C=C1)Cl)(C)C1=CC=C(C=C1)Cl)OCC | C29H32Cl2N2O
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | [(4S,5R)-2-(4-tert-Butyl-2-ethoxy-phenyl)-4,5-bis-(4-chloro-phenyl)-4,5-dimethyl-4,5-dihydro-imidazol-1-yl]-phenyl-methanone | C(C)(C)(C)C1=CC(=C(C=C1)C=1N([C@]([C@](N1)(C)C1=CC=C(C=C1)Cl)(C)C1=CC=C(C=C1)Cl)C(=O)C1=CC=CC=C1)OCC | C36H36Cl2N2O2
